US07671043B2
33A: 3-[({4-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-3-methyl-phenyl}methyl)-amino]-cis-cyclobutanecarboxylic acid
The title compound was prepared from 4-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-3-methyl-benzoic acid methyl ester by procedures analogous to those described in Preparations (6F-6G) and Examples (1A-1B) for the preparation of 5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyrazine-2-carbaldehyde and 3-({5-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cis-cyclobutanecarboxylic acid, respectively.

reactant | 4-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C)C)=O | C21H22N2O3
reactant | 5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyrazine-2-carbaldehyde | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1N=CC(=NC1)C=O | C17H16N4O2
reactant | 3-({5-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cis-cyclobutanecarboxylic acid | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1N=CC(=NC1)CN[C@H]1C[C@H](C1)C(=O)O | C22H25N5O3
product | 3-[({4-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-3-methyl-phenyl}methyl)-amino]-cis-cyclobutanecarboxylic acid | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C1=C(C=C(C=C1)CN[C@H]1C[C@H](C1)C(=O)O)C | C25H29N3O3
